US06225311B1
A solution of 0.418 g (0.817 mmol) of methyl 2,2-dimethyl-4-[(4-{[5-(tetrahydro-2H-pyran-2-yloxy)-2-pentynyl]oxy}phenyl)sulfonyl]-3-thiomorpholine carboxylate, 4.0 mL (4.08 mmol) of 1N NaOH, 4.0 mL of methanol and 4.0 mL of THF was heated to reflux for 5 h. The reaction was concentrated and the residue was diluted with water, acidified to pH5 and extracted with ethyl acetate. The organics were washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo to provide 0.342 g (84%) of 2,2-dimethyl-4-[(4-{[5-(tetrahydro-2H-pyran-2-yloxy)-2-pentynyl]oxy}phenyl)sulfonyl]-3-thiomorpholine carboxylic acid as a colorless oil. Electrospray Mass Spec: 496.5 (M−H)−

reactant | methyl 2,2-dimethyl-4-[(4-{[5-(tetrahydro-2H-pyran-2-yloxy)-2-pentynyl]oxy}phenyl)sulfonyl]-3-thiomorpholine carboxylate | 0.817 mmol, 0.418 g | CC1(C(N(CCS1)S(=O)(=O)C1=CC=C(C=C1)OCC#CCCOC1OCCCC1)C(=O)OC)C | C24H33NO7S2
reactant | NaOH | 4.08 mmol, 1N, 4.0 mL | [OH-].[Na+]
reactant | methanol | 4.0 mL | CO | CH4O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 2,2-dimethyl-4-[(4-{[5-(tetrahydro-2H-pyran-2-yloxy)-2-pentynyl]oxy}phenyl)sulfonyl]-3-thiomorpholine carboxylic acid | 0.342 g, 84% | CC1(C(N(CCS1)S(=O)(=O)C1=CC=C(C=C1)OCC#CCCOC1OCCCC1)C(=O)O)C | C23H31NO7S2
